US07067517B2
4-Cyclopropylmethyl-piperazine-1-carboxylic acid 4-[2-(4-chloro-phenyl)-ethylcarbamoyl]-phenyl ester
The title compound was prepared from 4-[2-(4-chloro-phenyl)-ethylcarbamoyl]-phenyl chloroformate and 1-cyclopropylmethyl-piperazine, yield 18%. White crystals, m.p. 225–226° C.; IR (KBr): ν 1710 (ester C═O), 1661 (amide C═O) cm−1.

reactant | 4-[2-(4-chloro-phenyl)-ethylcarbamoyl]-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)C(NCCC1=CC=C(C=C1)Cl)=O | C16H13Cl2NO3
reactant | 1-cyclopropylmethyl-piperazine | C1(CC1)CN1CCNCC1 | C8H16N2
reactant | KBr | [K+].[Br-]
reactant | ester C | C([C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O)O | C6H8O6
product | 4-Cyclopropylmethyl-piperazine-1-carboxylic acid 4-[2-(4-chloro-phenyl)-ethylcarbamoyl]-phenyl ester | yield 18% | ClC1=CC=C(C=C1)CCNC(=O)C1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC1CC1 | C24H28ClN3O3
